US06951879B2
2.0 g (6.55 mmol) 3-(4-Bromo-phenyl)-benzo[b]thiophen-6-ol in 25 ml acetone were treated with 5.89 g (42.6 mmol, 6.5 eq) K2CO3 and 2.0 ml (16.38 mmol, 2.5 eq) 1,4-dibromobutane. The reaction mixture was stirred at 45° C. for 10 h, filtered and evaporated. The excess of dibromide was removed in vacuo to yield 2.7 g crude 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[b]thiophene, MS: 439 (M).

reactant | 3-(4-Bromo-phenyl)-benzo[b]thiophen-6-ol | 6.55 mmol, 2.0 g | BrC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)O | C14H9BrOS
reactant | K2CO3 | 42.6 mmol, 5.89 g, 6.5 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dibromobutane | 16.38 mmol, 2.0 ml, 2.5 eq | BrCCCCBr | C4H8Br2
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[b]thiophene | 2.7 g | BrCCCCOC=1C=CC2=C(SC=C2C2=CC=C(C=C2)Br)C1 | C18H16Br2OS
